data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_120093_1,[C:1]([C:2]([H:11])([H:12])[H:13])([N:3]([O:6][H:7])[H:8])([C:4](=[C:5]([H:14])[H:15])[H:10])[H:9]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:4](/[C:5]([N:3]([O:6][H:7])[H:8])([H:14])[H:15])[H:10])[H:9],54.221647500002064
MR_182811_2,[C:1]1([C:3]([H:10])([H:11])[H:12])([C:4](=[O:6])[H:9])[C:2]([H:7])([H:8])[O:5]1>>[C:1](=[C:2]([H:7])[H:8])([C:3]([H:10])([H:11])[H:12])[O:5][C:4](=[O:6])[H:9],63.46597750002573
MR_196305_0,[C:1]([C:2]([H:11])([H:12])[H:13])(/[C:4](=[N:5]/[N:3]([H:6])[H:7])[H:8])([H:9])[H:10]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:4](\[N:5]([N:3]([H:6])[H:7])[H:10])[H:8])[H:9],70.94075750000492
MR_87609_1,[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])=[N:7][N:3]([N:5]([H:9])[H:10])[O:6][H:8])([H:11])([H:12])[H:16]>>[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])([O:6][H:8])[N:7][N:3][N:5]([H:9])[H:10])([H:11])([H:12])[H:16],26.026817500027025
MR_102368_0,[C:1]([C:4]([N:2]([C:3]([N:5]([H:10])[H:11])=[O:7])[O:6][H:9])=[O:8])([H:12])([H:13])[H:14]>>[C:1](/[C:4](=[N:2]/[O:6][H:9])[O:8][C:3]([N:5]([H:10])[H:11])=[O:7])([H:12])([H:13])[H:14],47.98931750000705
MR_234546_0,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:3]([N:5]([H:8])[H:9])[C:6](=[O:7])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1([C:2]([H:14])([H:15])[H:16])[C:3]([N:5]([H:8])[H:9])=[C:6]([H:10])[O:7]1)([H:11])([H:12])[H:13],54.872364999999945
MR_604526_1,[C:1]([N:3]([C:2]([H:16])([H:17])[H:18])/[C:6](=[C:7](\[C:4]([N:5]([H:9])[H:10])=[O:8])[H:12])[H:11])([H:13])([H:14])[H:15]>>[C:1]([N:3]([C:2]([H:16])([H:17])[H:18])/[C:7](=[C:6](\[C:4]([N:5]([H:9])[H:10])=[O:8])[H:11])[H:12])([H:13])([H:14])[H:15],42.003594999960114
MR_204761_0,[C:1]1([H:12])([H:13])/[C:3](=[N:7]\[H:10])[O:9][C:5]([O:6][C:2]([H:15])([H:16])[H:17])([H:14])/[C:4]1=[N:8]/[H:11]>>[C:1](/[C:3]([O:6][C:2]([H:15])([H:16])[H:17])=[N:7]\[H:10])(/[C:4]([C:5](=[O:9])[H:14])=[N:8]\[H:11])([H:12])[H:13],62.21035000002132
MR_40543_0,[C:1]([C:5]([C:2]([H:12])([H:16])[H:17])=[C:6](/[C:4](=[C:7](\[C:3]([H:18])([H:19])[H:20])[H:11])[O:8][H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1]([C:5]1([C:2]([H:12])([H:16])[H:17])[C:6]([H:10])=[C:4]([O:8][H:9])[C@:7]1([C:3]([H:18])([H:19])[H:20])[H:11])([H:13])([H:14])[H:15],47.65736999998907
MR_611972_0,[C:1]1([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])[C:6]([C:4]([H:19])([H:20])[H:21])(/[C:7](=[N:5]/[H:10])[H:11])[C:8]([H:12])=[N:9]1>>[C:1]1([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])[C:6]([C:4]([H:19])([H:20])[H:21])=[C:7]([H:11])[N:5]([H:10])[C:8]([H:12])=[N:9]1,60.01472750000033
MR_253671_0,[C@:1]12([C:3]([H:14])([H:15])[H:16])[C@:5]([O:8][H:10])([C@:6]1([C:2]([O:9][H:11])([H:12])[H:13])[C:4]([H:17])([H:18])[H:19])[O:7]2>>[C:1]1([C:2]([O:9][H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])[C:6]([C:4]([H:17])([H:18])[H:19])=[C:5]([O:8][H:10])[O:7]1,32.40158999998343
MR_359798_1,[C:1](/[C:5](=[C:4](\[C:2]([H:16])([H:17])[H:18])[C:3]([O:8][H:11])=[O:10])[H:14])([C:6](=[C:7]([H:19])[H:20])[H:15])([O:9][H:12])[H:13]>>[C:1](=[C:5](\[C:4]([C:2]([H:16])([H:17])[H:18])([C:3]([O:8][H:11])=[O:10])[C:6](=[C:7]([H:19])[H:20])[H:15])[H:14])(\[O:9][H:12])[H:13],67.23160499997078
MR_56590_2,[C:1]1([H:12])([H:13])[C:5](/[N:6]=[N:2]/[H:8])([H:15])[C:4]([N:3]([H:10])[H:11])([H:14])[N:7]1[H:9]>>[C:1](/[C:5](=[N:6]\[N:2]([H:8])[H:9])[H:15])(/[N:7]=[C:4](\[N:3]([H:10])[H:11])[H:14])([H:12])[H:13],22.14949500000728
MR_585024_0,[C:1]([C:2]([C:4]([H:22])([H:23])[H:24])([N:9]([H:17])[H:18])[H:10])([N:5]([C:3]([H:19])([H:20])[H:21])[N:6]([H:11])[H:12])([N:7]([H:13])[H:14])[N:8]([H:15])[H:16]>>[C:1]([N:5]([C:2]([C:4]([H:22])([H:23])[H:24])([N:9]([H:17])[H:18])[H:10])[C:3]([H:19])([H:20])[H:21])([N:6]([H:11])[H:12])([N:7]([H:13])[H:14])[N:8]([H:15])[H:16],71.02923499997772
MR_80263_1,[C:1]([C:3](/[C:2]([N:4]([H:9])[H:10])=[C:5](/[C:6](=[C:8]([H:18])[H:19])[H:12])[H:11])=[C:7]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([C:3](/[C:5](=[C:2](\[N:4]([H:9])[H:10])[C:6](=[C:8]([H:18])[H:19])[H:12])[H:11])=[C:7]([H:16])[H:17])([H:13])([H:14])[H:15],67.52025499999107
MR_359014_0,[C:1]([C:2]([H:12])([H:15])[H:16])([C:3]([H:13])([H:14])[H:17])([C:4]([C:6](=[O:8])[H:11])=[O:7])[N:5]([H:9])[H:10]>>[C:1]([C:2]([H:12])([H:15])[H:16])([C:3]([H:13])([H:14])[H:17])=[C:4]([N:5]([H:9])[H:10])[O:7][C:6](=[O:8])[H:11],60.73572499999912
MR_138313_0,[C:1]([C:4]([N:2]([C:3]([O:6][H:9])=[O:7])[N:5]([H:10])[H:11])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:4]([O:7]/[C:3](=[N:2]/[N:5]([H:10])[H:11])[O:6][H:9])=[O:8])([H:12])([H:13])[H:14],42.92162749999648
MR_614096_1,[C:1](\[C:4]([C:5]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])[N:8]([H:11])[H:12])=[C:7]([H:19])[H:20])(=[N:6]/[H:10])[H:9]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:4](/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:8]/[H:12])=[C:7]([H:19])[H:20])([N:6]([H:10])[H:11])[H:9],62.50590249998851
MR_300014_0,[C@:1]([N:3]([H:9])[H:10])([O:5][O:6][C:2]([H:11])([H:12])[H:13])([N:7]=[C:4]([H:14])[H:15])[H:8]>>[C@@:1]([N:3]([H:9])[H:10])([O:5][N:7][C:4]([H:14])[H:15])([O:6][C:2]([H:11])([H:12])[H:13])[H:8],47.402604999990245
